US09145391B2
6′-Fluoro-N6-[4-(trifluoromethyl)pyridin-2-yl]-2,3′-bipyridine-4,6-diamine (50 mg, 0.143 mmol), 3-aminopyrrolidin-2-one (39.1 mg, 0.286 mmol), tribasic potassium phosphate (60.8 mg, 0.286 mmol), and N,N-diisopropylethylamine (0.050 ml, 0.286 mmol) were dissolved in dimethylsulfoxide (0.5 mL). The mixture was heated to 130° C. with stirring for three days. After allowing to cool to room temperature, the reaction mixture was partitioned between ethyl acetate (30 mL) and saturated aqueous sodium bicarbonate solution (15 mL). The layers were separated, and the organic layer was washed with water (3×5 mL) and brine (10 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified using reverse phase HPLC (15 to 85% acetonitrile/water with 0.1% TFA gradient). The fractions containing the product were partitioned between 10% isopropanol/chloroform and 1:1 saturated aqueous sodium bicarbonate solution:brine. The layers were separated, and the aqueous layer was extracted with additional 10% isopropanol/chloroform. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford 3-[(4-amino-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)amino]pyrrolidin-2-one. MS ESI calcd. for C20H19F3N7O [M+H]+ 430. found 430. 1H NMR (500 MHz, DMSO-d6) δ 9.74 (s, 1H), 8.62 (s, 1H), 8.50 (d, J=2.2 Hz, 1H), 8.40 (d, J=5.1 Hz, 1H), 7.88 (dd, J=2.4, 8.8 Hz, 1H), 7.83 (s, 1H), 7.08 (d, J=5.3 Hz, 1H), 6.94 (d, J=7.3 Hz, 1H), 6.61 (d, J=8.8 Hz, 1H), 6.53 (d, J=1.6 Hz, 1H), 6.46 (s, 1H), 5.97 (s, 2H), 4.60-4.52 (m, 1H), 3.25-3.20 (m, 2H), 2.52-2.46 (m, 1H), 1.87-1.79 (m, 1H). rhSyk IC50=4 nM.

reactant | 6′-Fluoro-N6-[4-(trifluoromethyl)pyridin-2-yl]-2,3′-bipyridine-4,6-diamine | 0.143 mmol, 50 mg | FC1=CC=C(C=N1)C1=NC(=CC(=C1)N)NC1=NC=CC(=C1)C(F)(F)F | C16H11F4N5
reactant | 3-aminopyrrolidin-2-one | 0.286 mmol, 39.1 mg | NC1C(NCC1)=O | C4H8N2O
reactant | potassium phosphate | 0.286 mmol, 60.8 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N-diisopropylethylamine | 0.286 mmol, 0.050 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 3-[(4-amino-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)amino]pyrrolidin-2-one | NC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)NC1C(NCC1)=O | C20H18F3N7O
